* Z:\mnt\design.r\spice\examples\1235.asc
V1 IN 0 PWL(0 0 25u 5 0.23 5 +50u 2 +25m 2 +50u 5) Rser=10m
V2 N001 0 3 Rser=10m
R1 IN N002 10K
R2 IN N006 10K
V3 N004 0 PULSE(0 2 0 1u 1u 20m 40m) Rser=0.1
XU1 N001 OUT IN 0 NC_01 NC_02 N005 N007 NC_03 N006 N004 NC_04 NC_05 N003 N002 NC_06 LTC1235
R3 IN N007 10K
V4 IN N005 PWL(0 0 0.5 0 +1u 5 +9m 5 +1u 0 0.7 0 +1u 5 +43m 5 +1u 0)
C1 OUT 0 0.22µ
Rload OUT 0 1K
.tran 1
.lib LTC1235.sub
.backanno
.end
