* Z:\mnt\design.r\spice\examples\1252.asc
V1 +V 0 5
R1 OUT N002 510
R2 N002 N001 51
V3 IN 0 AC 1
XU1 N003 N002 +V 0 OUT LT1252
C1 N001 0 220µ
R3 +V N003 10K
R4 N003 0 10K
C2 N003 IN 22µ
.ac oct 10 1 200Meg
* Single Supply AC-Coupled Amplifier, Noninverting
.lib LTC.lib
.backanno
.end
