* Z:\mnt\design.r\spice\examples\1261.asc
XU1 NC_01 N001 N003 N005 N006 0 N008 N009 N007 N007 OUT N004 N002 IN LTC1261
C1 N001 N003 .1µ
C2 N005 N006 .1µ
V1 IN 0 3.3
C3 OUT 0 3.3µ
Rload OUT 0 1K
R2 IN N004 3.3K
.tran 1m
.lib LTC1261.sub
.backanno
.end
