* Z:\mnt\design.r\spice\examples\1262.asc
XU1 N001 N002 N003 N004 IN OUT 0 0 LTC1262
C1 N001 N002 .22µ
C2 N003 N004 .22µ
C3 OUT 0 4.7µ
V1 IN 0 5
Rload OUT 0 1K
.tran 1m
.lib LTC1262.sub
.backanno
.end
