* Z:\mnt\design.r\spice\examples\1266.asc
M§Q1 N005 N010 0 0 NDS9410A
L1 N005 N006 5µ
R1 N006 OUT .02
C1 OUT 0 390µ Rser=.01
V1 IN 0 7
C2 N011 0 180p
C3 N008 0 3300p
D1 0 N005 1N5818
C4 N006 OUT 1000p
R2 N009 N008 470
XU1 N004 N001 N001 0 IN N011 N009 OUT N006 N007 0 0 N002 N003 0 N010 LTC1266
R3 OUT N007 164K
R4 N007 0 100K
M§Q2 IN N004 N005 N005 NDS9410A
D2 IN N001 1N5818
C5 N001 N005 .1µ
Rload OUT 0 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
.lib LTC1266.sub
.backanno
.end
