* Z:\mnt\design.r\spice\examples\1309.asc
C1 N004 0 0.1µ
C2 OUT 0 1µ
D1 N001 OUT MBRS130L
L1 IN N001 10µ Rser=0.02 Rpar=5000
R1 N004 0 1Meg
V1 IN 0 5
Rload OUT 0 100
XU1 N004 IN 0 N001 0 N003 OUT N002 LT1309
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1309.sub
.backanno
.end
