* Z:\mnt\design.r\spice\examples\1316.asc
V1 IN 0 2
R2 N002 0 324K
R1 OUT N002 1Meg
R3 N005 0 5K
L1 IN N001 47µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C2 OUT 0 47µ Rser=0.02
Rload OUT 0 100
XU1 N004 N003 N005 0 N001 IN IN N002 LT1316
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT1316.sub
.backanno
.end
