* Z:\mnt\design.r\spice\examples\1399.asc
V1 +V 0 5
V2 -V 0 -5
XU1 N001 N003 +V -V N002 0 LT1398
R1 N002 N003 324
R2 N003 0 107
XU2 N004 N006 +V -V N005 0 LT1398
R3 N005 N006 324
R4 N001 Y 1K
R5 N001 R-Y 1K
R6 N004 0 1K
R7 N004 Y 205
R8 N006 R-Y 316
R9 N006 B-Y 845
XU3 N007 N009 +V -V N008 0 LT1398
R10 N008 N009 324
R11 N009 0 107
R12 N007 Y 1K
R13 N007 B-Y 1K
R14 G N005 75
R15 R N002 75
R16 B N008 75
V3 Y 0 SINE(0 1 1Meg)
V4 R-Y 0 SINE(0 1 2Meg)
V5 B-Y 0 SINE(0 1 3Meg)
.tran 10u
* Buffered Color-Difference to RGB Matrix
.lib LTC.lib
.backanno
.end
