* Z:\mnt\design.r\spice\examples\1429.asc
C1 N002 N003 .1µ
C2 N005 N006 .1µ
V1 IN 0 3.3
C3 OUT 0 3.3µ
Rload OUT 0 100
R2 IN N004 3.3K
XU1 NC_01 N002 N003 N005 N006 0 N008 N009 N007 N007 OUT N004 N001 IN LTC1429
V2 N001 0 PULSE(0 5 0 0 0 .25u .5u)
.tran 250u
.lib LTC1429.sub
.backanno
.end
