* Z:\mnt\design.r\spice\examples\1433.asc
XU1 N002 MP_01 N002 MP_02 0 N006 N001 N003 0 OUT N005 MP_03 N007 IN MP_04 IN LTC1433
C1 N007 0 100p
C2 N006 0 .01µ
C3 N004 0 6800p
C4 N005 0 680p
L1 N002 OUT 100µ
R1 N005 N004 5.1K
V1 IN 0 6
C5 OUT 0 100µ
D1 0 N002 1N5818
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
.lib LTC1433.sub
.backanno
.end
