* Z:\mnt\design.r\spice\examples\1510.asc
XU1 0 N007 N004 MP_01 N002 MP_02 N001 MP_03 MP_04 BAT MP_05 N005 N008 IN LT1510
V1 IN 0 14
L1 N007 N001 10µ
C1 N004 N007 .22µ
D1 N001 N004 1N4148
R1 BAT N002 70.6K
R2 N002 0 100K
R3 N006 0 1K
C2 N006 N005 .1µ
R4 BAT N003 1
V2 N003 0 3
R5 N009 0 300
C3 N009 N008 1µ
R6 N008 0 6.19K
C4 BAT 0 22µ
D2 0 N007 1N5818
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LT1510.sub
.backanno
.end
