* Z:\mnt\design.r\spice\examples\1522.asc
C1 N002 N001 .22µ
V1 IN 0 3
C2 OUT 0 10µ
Rload OUT 0 200
XU1 MP_01 IN OUT N001 N002 0 0 LTC1522
.tran 1m startup
.lib LTC1522.sub
.backanno
.end
