* Z:\mnt\design.r\spice\examples\1541.asc
V1 +V 0 5
XU1 N001 N001 N003 0 N001 N004 N002 +V LTC1541
V2 N003 0 sine(1.2 1 1K)
.tran 3m
.lib LTC.lib
.backanno
.end
